Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx of muscular dystrophy, and mild mitral regurgitation 
presenting from ___ Red socks game for abdominal pain and 
lethargy. Pt states he started to have abdominal pain prior to 
the game and was associated with mild nausea and diaphoresis. 
Per his father during the game he started becoming more tired 
appearing, did complain of abdominal pain. He alerted medical 
staff who brought him to the ED. He has previously been in 
normal state of health. No alcohol, smoking or other drug 
consumption. Only food today was a doughnut, no new or unusual 
foods. No recent travel except to ___ to visit sister this 
past ___. He has had a lap chole in the past for 
choledocolithiasis c/b pancreatitis, states pain then was way 
worse. This has never happened before. He endorsed dark urine 
and decreased apatite because of the pain even with fluids, but 
otherwise denies vomiting, diarrhea, constipation, chills/fever, 
recent illness, dark or bloody stools. Has BM normally every 2 
days currently not passing gas. 

Upon arrival to the floor he states that he feels better and his 
abdominal pain has resolved

ED course:
In the ED, initial VS were 5 97.4 117 102/62 18 99% RA 

Labs showed Hgb 17.6, Hct 56.9, WBC 12.1, Platelet 301.
Sodium 141, K 5.5, Chloride 104, Bicarb 19, BUN 15, Cr 1.2. 
Glucose 121. Lactate 4.3, Repeat Lactate 3.6. 
Repeat chemistry panel: Sodium 141, K 4.3, CL 103, Bicarb 26, 
BUN 15, Creatinine 1. Glucose 114. 

Imaging showed distention of transverse colon but otherwise 
unremarkable  

Received:
3 Liters of normal saline
Morphine Sulfate 4 mg IV x3
Ondansetron 4 mg IV ONCE  
Dextrose 50% 25 gm IV ONCE 
Calcium Gluconate 2 g IV ONCE 
Insulin (Regular) for Hyperkalemia 10 UNIT IV ONCE

Transfer VS were 98.4 92 93/56 16 97% RA 

He was evaluated by surgery who did not recommend an NG tube at 
this time. 
Decision was made to admit to medicine for further management.  
 
Past Medical History:
- ADHD
- myscular dystrophy
- choledocolithiasis c/b pancreatitis s/p laparoscopic 
cholecystectomy 
 
Social History:
___
Family History:
Mother had muscular dystrophy and passed away of an MI at age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
VS - 97.6, 105/61, 95, 20, 95% RA
GENERAL: well appearing young man in NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition   
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: distended over epigastrium, nontender to palpation, 
hollow and decreased bowel sounds
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact  

DISCHARGE PHYSICAL EXAM
=========================
Vitals:  97.6, 105/61, 95, 20, 95% RA
GENERAL: well appearing young man in NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition   
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: distended over epigastrium, nontender to palpation, 
hollow and decreased bowel sounds
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact  

 
Pertinent Results:
ADMISSION LABS
=================
___ 04:15PM BLOOD WBC-12.1* RBC-6.08 Hgb-17.6* Hct-56.9* 
MCV-94 MCH-28.9 MCHC-30.9* RDW-14.6 RDWSD-49.5* Plt ___
___ 04:15PM BLOOD Neuts-87.4* Lymphs-9.2* Monos-2.6* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-10.58* AbsLymp-1.12* 
AbsMono-0.31 AbsEos-0.03* AbsBaso-0.03
___ 04:15PM BLOOD Glucose-121* UreaN-15 Creat-1.2 Na-141 
K-5.5* Cl-104 HCO3-19* AnGap-24*
___ 04:15PM BLOOD ALT-50* AST-85* AlkPhos-56 TotBili-0.9
___ 04:15PM BLOOD Lipase-29
___ 04:15PM BLOOD Albumin-4.2 Calcium-11.3* Phos-5.1* 
Mg-3.3*
___ 04:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:22PM BLOOD Lactate-4.3* K-5.2*

PERTINENT STUDIES/IMAGING
==============================
CT Abdomen/Pelvis ___:
IMPRESSION:  
  
Colonic dilation most notable involving the transverse colon 
which may reflect 
motility disorder in this patient with muscular dystrophy.  
Please correlate 
clinically. 

DISCHARGE LABS
==================
___ 06:22AM BLOOD WBC-13.7* RBC-5.15 Hgb-15.0 Hct-47.5 
MCV-92 MCH-29.1 MCHC-31.6* RDW-14.9 RDWSD-50.4* Plt ___
___ 06:22AM BLOOD Glucose-98 UreaN-13 Creat-0.9 Na-146* 
K-4.5 Cl-110* HCO3-27 AnGap-14
___ 06:22AM BLOOD ALT-87* AST-68* AlkPhos-50 TotBili-0.9
___ 06:22AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.3
___ 09:01AM BLOOD Lactate-1.4
 
Brief Hospital Course:
Mr. ___ is a ___ year old male, with past
history of muscular dystrophy and cognitive impairment, who
presented with abdominal pain and nausea two hours after
ingesting a ___ Crème donut most consistent with likely
Staphylococcal food poisoning, now resolved. He also had a mild
acute kidney injury and mild hyperkalemia which improved with IV
fluids. He was back to his baseline this morning without further
intervention and determined to be stable for discharge pending
his ability to tolerate POs.

# Foodborne staphylococcal intoxication: Patient presented with
abdominal pain and nausea two hours after ingestion of cream
containing donut, which resolved overnight with supportive care. 


#Constipation: Colonic dilatation without obstruction, which
seems chronic and related to muscular dystrophy, was seen on
imaging and did not require further intervention. Patient no
longer complaining of pain this morning, may require bowel
regimen as outpatient for management of likely decreased bowel
motility.

# Hyperkalemia: patient was mildly hyperkalemic to 5.5 on
admission but resolved with IVF administration.

TRANSITIONAL ISSUES
====================
# Patient with chronic colonic dilatation, would consider bowel 
regimen as outpatient
# Patient with mild transaminitis, would follow up LFTs 
outpatient, consider further workup

#CODE: Full code 
#EMERGENCY CONTACT HCP: 
Name of health care proxy: ___ 
Relationship: father 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine 10 mg PO QPM 
2. Amphetamine-Dextroamphetamine XR 30 mg PO QAM 

 
Discharge Medications:
1.  Amphetamine-Dextroamphetamine XR 30 mg PO QAM  
2.  Amphetamine-Dextroamphetamine 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
====================
Foodborne staphylococcal intoxication
Constipation
Hyperkalemia

SECONDARY DIAGNOSIS
====================
Muscular dystrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were experiencing nausea 
and abdominal pain. We thought that this was most likely due to 
food poisoning from the cream in the donut that you ate. Your 
symptoms improved with supportive care overnight and you were 
feeling back to your usual self.

Please follow up with your doctors and continue to take your 
medications as directed.
 
Followup Instructions:
___